US04885283
60 mg of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl](succinimidomethyl)phosphinic acid methyl ester were dissolved in 5 ml of dichloromethane, 0.5 ml of bromotrimethylsilane was added and the mixture was stirred at room temperature for 1.5 hours. The solvent was removed by evaporation and the residue was then re-evaporated twice with 20 ml of acetone each time. The residue was dissolved in 5 ml of acetone and 0.25 ml of water. After standing at room temperature for 15 minutes, the solvent was removed by evaporation and the residue was dissolved in 20 ml of acetone/dichloromethane (1:2). The solution was then evaporated to give 56 mg of [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl](succinimidomethyl)phosphinic acid in the form of a white foam.

reactant | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl](succinimidomethyl)phosphinic acid methyl ester | 60 mg | COP(=O)(CN1C(CCC1=O)=O)CC(CC(C)C)C(N[C@@H](CC(C)C)C(NC)=O)=O | C20H36N3O6P
reactant | bromotrimethylsilane | 0.5 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | [(RS)-4-methyl-2-[[(S)-3-methyl-1-(methylcarbamoyl)butyl]carbamoyl]pentyl](succinimidomethyl)phosphinic acid | 56 mg | CC(CC(CP(O)(=O)CN1C(CCC1=O)=O)C(N[C@@H](CC(C)C)C(NC)=O)=O)C | C19H34N3O6P
